US06740670B2
To a solution of 4-(phenylmethyl)piperidinyl (200 mg) and diisopropylethylamine (130 mg) in dimethylformamide (1 ml) was added 3-[[(methylsulfonyl)oxy]methyl]-4-phenylmethoxybenzaldehyde (320 mg). After stirring at room temperature for 3 hours the reaction mixture was partially concentrated under reduced pressure and the residue was purified by flash column chromatography using petroleum ether:diethyl ether (1:1) as eluant. The pure fractions were combined and evaporated under reduced pressure to give 4-phenylmethoxy-3-[[4-(phenylmethyl)-1-piperidinyl]-methyl]benzaldehyde (170 mg) as a gum. 1H NMR (CDCl3) δ9.95 (s, 1H, CHO); 5.20 (s, 2H); 3.68 (s, 2H). TLC (silica gel): Rf=0.2 (dichloromethane: diethyl ether, 3:1).

reactant | diisopropylethylamine | 130 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-[[(methylsulfonyl)oxy]methyl]-4-phenylmethoxybenzaldehyde | 320 mg | CS(=O)(=O)OCC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C16H16O5S
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-phenylmethoxy-3-[[4-(phenylmethyl)-1-piperidinyl]-methyl]benzaldehyde | 170 mg | C1(=CC=CC=C1)COC1=C(C=C(C=O)C=C1)CN1CCC(CC1)CC1=CC=CC=C1 | C27H29NO2
